US06927228B2
N-[4′-(2-Hydroxycarbamoylpropyl)biphenyl-3-yl-methyl]-N-methylbenzamide
By reacting a solution of 669 mg (1.65 mmol) of 3-(3′-{[methyl-(1-phenylmethanoyl)amino]-methyl}biphenyl-4-yl)propionyl chloride in 6 ml of THF with 243 mg (1.65 mmol) of O-(tert-butyldimethyl-silyl) hydroxylamine in the presence of 250 μl (1.8 mmol) of triethylamine, followed by deprotection with 530 μl of tetrabutylammonium fluoride solution (1N in THF), and after purification by chromatography on a column of silica, 350 mg (42%) of N-[4′-(2-hydroxy-carbamoylpropyl)biphenyl-3-ylmethyl]-N-methylbenzamide, with a melting point of 65-66° C., are obtained.

reactant | 3-(3′-{[methyl-(1-phenylmethanoyl)amino]-methyl}biphenyl-4-yl)propionyl chloride | 1.65 mmol, 669 mg | CN(C(=O)C1=CC=CC=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)Cl | C24H22ClNO2
reactant | O-(tert-butyldimethyl-silyl) hydroxylamine | 1.65 mmol, 243 mg | C(C)(C)(C)[Si](ON)(C)C | C6H17NOSi
reactant | triethylamine | 1.8 mmol, 250 μl | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 1N, 530 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | N-[4′-(2-Hydroxycarbamoylpropyl)biphenyl-3-yl-methyl]-N-methylbenzamide | ONC(=O)C(CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(C1=CC=CC=C1)=O)C)C | C25H26N2O3
